US09120794B2
N-(4-chlorophenethyl)-2-(2,2-dimethyl-5-oxo-1,3-dioxolan-4-ylidene)acetamide
By appropriate application of method described in Intermediate 7, 2-(4-chlorophenyl)ethylamine (0.27 mL, 1.9 mmol) and 2-(2,2-dimethyl-5-oxo-1,3-dioxolan-4-ylidene)acetic acid (365 mg, 2.12 mmol) were converted to Example 241A (190 mg, 32%) as a white solid. HPLC/MS (Method L) RT=1.78 min, [M+1]+ 310.0.

reactant | 2-(4-chlorophenyl)ethylamine | 1.9 mmol, 0.27 mL | ClC1=CC=C(C=C1)CCN | C8H10ClN
reactant | 2-(2,2-dimethyl-5-oxo-1,3-dioxolan-4-ylidene)acetic acid | 2.12 mmol, 365 mg | CC1(OC(C(O1)=CC(=O)O)=O)C | C7H8O5
product | N-(4-chlorophenethyl)-2-(2,2-dimethyl-5-oxo-1,3-dioxolan-4-ylidene)acetamide | ClC1=CC=C(CCNC(C=C2OC(OC2=O)(C)C)=O)C=C1 | C15H16ClNO4
